US04849422
Grams 5.9 of 1-(2-hydroxyethoxyethyl)piperazine and 2.7 g of 2-chloronicotinic acid in 50 ml dioxane were refluxed for 3 days. The reaction mixture was then cooled and allowed to rest for 2 days, afterwards the solvent was removed and the residue crystallized from absolute ethanol, gave 1.1 g of 2-{4-[2-(2-hydroxy ethoxy)ethyl]piperazin-1-yl}nicotinic acid melting at 172°-174° C.

reactant | 1-(2-hydroxyethoxyethyl)piperazine | OCCOCCN1CCNCC1 | C8H18N2O2
reactant | 2-chloronicotinic acid | 2.7 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[2-(2-hydroxy ethoxy)ethyl]piperazin-1-yl}nicotinic acid | 1.1 g | OCCOCCN1CCN(CC1)C1=C(C(=O)O)C=CC=N1 | C14H21N3O4
